US08729263B2
Following GENERAL METHOD 3-1 for methoxy deprotection using thiophenol, 6-(4-(1H-imidazol-2-yl)-2-methoxyphenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (40 mg, 0.1 mmol) was treated with thiophenol (0.01 mL, 0.11 mmol) and K2CO3(13 mg, 0.1 mmol) in NMP (2 mL) for 30 min at 190° C. to afford 5-(1H-imidazol-2-yl)-2-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenol as pale yellow powder (6 mg). MS: 407.4 [M+H+]; LCMS Rt=0.40 min [Method Q]; 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.00 (d, J=10.11 Hz, 1H), 7.68-7.78 (m, 1H), 7.32-7.41 (m, 2H), 7.19 (d, J=10.11 Hz, 1H), 7.05 (s, 2H), 4.96 (br. s., 1H), 2.90 (s, 3H), 1.58 (dd, J=12.38, 3.28 Hz, 2H), 1.46 (t, J=12.38 Hz, 2H), 1.28 (s, 6H), 1.12 (s, 6H).

reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | 6-(4-(1H-imidazol-2-yl)-2-methoxyphenyl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 0.1 mmol, 40 mg | N1C(=NC=C1)C1=CC(=C(C=C1)C1=CC=C(N=N1)N(C1CC(NC(C1)(C)C)(C)C)C)OC | C24H32N6O
reactant | thiophenol | 0.11 mmol, 0.01 mL | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 0.1 mmol, 13 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 5-(1H-imidazol-2-yl)-2-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenol | 6 mg | N1C(=NC=C1)C=1C=CC(=C(C1)O)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C23H30N6O
